US06080773
To a solution of 10.4 g of 2-bromobenzaldehyde diethyl acetal in 200 ml of dry diethyl ether at -65° C. was added 27.5 ml of a 1.6 M solution of butyllithium in hexanes. The solution was stirred at this temperature for 30 min. then slowly warmed to -40° C. when 3.4 ml of dimethylformamide was added dropwise. The reaction was warmed to room temperature then 100 ml of water was added and the organic layer was separated. The aqueous layer was extracted with two 100 ml portions of ether and the combined organic extracts were dried over sodium sulfate and evaporated to give 8.5 g of 2-formylbenzaldehyde diethylacetal as an oil; ; 1H-NMR (200 MHz, CDCl3) d 5.06 (CHOEt).

reactant | 2-bromobenzaldehyde diethyl acetal | 10.4 g | C(C)OC(C1=C(C=CC=C1)Br)OCC | C11H15BrO2
reactant | butyllithium | C(CCC)[Li]
reactant | dimethylformamide | 3.4 ml | CN(C=O)C | C3H7NO
reactant | water | 100 ml | O | H2O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 2-formylbenzaldehyde diethylacetal | 8.5 g | C(C)OC(C1=C(C=CC=C1)C=O)OCC | C12H16O3
